US04058391
Preparation of 1-Methyl-3,5-diphenyl-4-(phenylthio)pyrazole
A mixture of 4-bromo-1-methyl-3,5-diphenylpyrazole (21.84 g, 0.07 mole), copper(1)salt of benzenethiol (14.67 g, 0.085 mole), pyridine (10 ml) and quinoline (100 ml) is stirred and heated at 175° C to 185° C (reflux) for 8 hours. The reaction mixture is allowed to stand overnight at room temperature. The mixture is poured into dilute hydrochloride acid and extracted with benzene. The benzene layer is separated and stripped in vacuo to give a brown syrup. The syrup is extracted with a hot mixture of n-hexane and n-heptane and filtered. The cooled filtrate yields a gray colored solid m.p. 109° C to 110° C. Recrystallization from n-hexane affords white crystals 17.35 g (74.5%), m.p. 109° C to 110° C.

reactant | 4-bromo-1-methyl-3,5-diphenylpyrazole | 0.07 mole, 21.84 g | BrC=1C(=NN(C1C1=CC=CC=C1)C)C1=CC=CC=C1 | C16H13BrN2
reactant | benzenethiol | 0.085 mole, 14.67 g | C1(=CC=CC=C1)S | C6H6S
reactant | quinoline | 100 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | hydrochloride | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-Methyl-3,5-diphenyl-4-(phenylthio)pyrazole | CN1N=C(C(=C1C1=CC=CC=C1)SC1=CC=CC=C1)C1=CC=CC=C1 | C22H18N2S
